US05401711
Preparation of 2-trimethylsilylethyl 2-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-vinylbenzoate (Compound No. 41)
In a 100 ml flask equipped with a thermometer, a cooling tube and a nitrogen-introducing tube, there were charged 2-trimethylsilylethyl 2-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-trifluoromethylsulfonyloxybenzoate (3.15 g, 6.0 mmol), tetrakis(triphenylphosphine)palladium(0) (400 mg, 0.34 mmol) and toluene (30 ml), and the resultant mixture was stirred at room temperature for 1 hour under nitrogen stream. After adding 2,6-di-tert-butyl-4-methylphenol (catalytic amount) to the resultant mixture, vinyl tributyl tin (3.17 g, 10.0 mmol) was further added and the mixture was reacted at 80°-90° C. for 3 hours. After cooling the mixture, toluene was added thereto and the organic layer was washed with water and a saturated salt water, dried with anhydrous sodium sulfate and concentrated. The residue thus obtained was purified by silica gel column chromatography to obtain 0.50 g (yield: 20.8%) of the aimed product (transparent viscous orange color liquid).

reactant | 2-trimethylsilylethyl 2-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-trifluoromethylsulfonyloxybenzoate | 6.0 mmol, 3.15 g | COC1=NC(=NC(=C1)OC)OC1=C(C(=O)OCC[Si](C)(C)C)C(=CC=C1)OS(=O)(=O)C(F)(F)F | C19H23F3N2O8SSi
reactant | 2,6-di-tert-butyl-4-methylphenol | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | vinyl tributyl tin | 10.0 mmol, 3.17 g | C(=C)[Sn](CCCC)(CCCC)CCCC
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.34 mmol, 400 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-trimethylsilylethyl 2-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-vinylbenzoate | 0.50 g, yield: 20.8% | COC1=NC(=NC(=C1)OC)OC1=C(C(=O)OCC[Si](C)(C)C)C(=CC=C1)C=C | C20H26N2O5Si
